US05656626
(E)-3-(8-Chloro-3-hydroxy-2,5-dioxo-2,5-dihydro-1H-benzo[b]azepin-4-yl)-N-methyl-N-phenylacrylamide
8-Chloro-4-[2-(phenyl-N-methylaminocarbonyl)ethenyl]-3-methoxy-2,5-dioxo-2,5-dihydro-1H-benz[b]azepine (0.150 g) was suspended in methylene chloride (10 mL) under nitrogen. This suspension was treated in one portion with boron tribromide (285 mg, 1.07 μL) via syringe at ambient temperature. The mixture immediately went from a buff suspension to a rust red mixture. Stirring was continued for one hour. The mixture was then treated with saturated aqueous sodium bicarbonate (10 mL) and the pH of the mixture was then adjusted to pH 3 with concentrated hydrochloric acid and the resulting buff colored suspension was stirred for an additional hour. The solid product was filtered off and washed with cold water and dried. The crude product was dissolved in warm ethyl acetate (15 mL) and hexane was added gradually to precipitate the product. The product was filtered off and dried under vaccum to afford the desired product 84 mg. Yield 58%; 1H NMR (d6 -DMSO) 7.63 (d,1, J=16), 6.80 (d,1, J=16) trans olefin protons; MS: m/z=383 (M+1). Analysis for C20H15ClN2O4 : Calculated: C, 62.75; H, 3.95; N, 7.32; Found: C, 62.45; H, 3.94; N, 7.08.

reactant | 8-Chloro-4-[2-(phenyl-N-methylaminocarbonyl)ethenyl]-3-methoxy-2,5-dioxo-2,5-dihydro-1H-benz[b]azepine | 0.150 g | ClC=1C=CC2=C(NC(C(=C(C2=O)C=CC(=O)N(C)C2=CC=CC=C2)OC)=O)C1 | C21H17ClN2O4
reactant | boron tribromide | 1.07 μL, 285 mg | B(Br)(Br)Br | BBr3
reactant | sodium bicarbonate | 10 mL | C([O-])(O)=O.[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | methylene chloride | 10 mL | C(Cl)Cl | CH2Cl2
product | (E)-3-(8-Chloro-3-hydroxy-2,5-dioxo-2,5-dihydro-1H-benzo[b]azepin-4-yl)-N-methyl-N-phenylacrylamide | 84 mg, Yield 58% | ClC=1C=CC2=C(NC(C(=C(C2=O)/C=C/C(=O)N(C2=CC=CC=C2)C)O)=O)C1 | C20H15ClN2O4
